US07323475B2
b) [(4-acetoxy-1-phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester
[(1-Oxo-3-phenyl-1H-indene-2-carbonyl)-amino]-acetic acid methyl ester (1.864 g, 5.8 mmol) was dissolved in a mixture of concentrated H2SO4 (16 ml) and glacial acetic acid (16 ml) at 50 to 60° C. Then NaN3 (985 mg, 15 mmol) was added in portions with stirring so that the temperature did not exceed 60° C. Stirring was then continued at 50 to 60° C. for additional 30 min before the mixture was poured onto ice (200 g). The resulting mixture was basified by addition of concentrated aqueous NH3 (55 ml, D=0.89 g/ml) and extracted with CH2Cl2 (2×100 ml). The combined organic phases were dried over MgSO4 and then filtered through silica gel. The filtrate was discarded. The silica gel was washed with EtOAc (ca. 400 ml). The resulting solution was concentrated in vacuo to give a dark oil (250 mg). Further purification by flash column chromatography on silica gel using EtOAc and then EtOAc:hexanes=7:3 as the eluent gave the title compound as a tan solid (19 mg); 1H NMR (CDCl3): δ=7.11 to 7.98 (m), 3.75 (d, 2H), 3.68 (s, 1H), 2.19 (s, 3H).

reactant | [(1-Oxo-3-phenyl-1H-indene-2-carbonyl)-amino]-acetic acid methyl ester | 5.8 mmol, 1.864 g | COC(CNC(=O)C=1C(C2=CC=CC=C2C1C1=CC=CC=C1)=O)=O | C19H15NO4
reactant | NaN3 | 15 mmol, 985 mg | [N-]=[N+]=[N-].[Na+]
reactant | NH3 | 55 ml | N | H3N
reactant | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
solvent | H2SO4 | 16 ml | OS(=O)(=O)O | H2O4S
product | [(4-acetoxy-1-phenyl-isoquinoline-3-carbonyl)-amino]-acetic acid methyl ester | 250 mg | COC(CNC(=O)C=1N=C(C2=CC=CC=C2C1OC(C)=O)C1=CC=CC=C1)=O | C21H18N2O5
